data/nitro/train.csv
rxn,smiles,ea
553,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[C:11]([H:12])([H:13])[H:14])[H:15])(\[Br:16])[c:17]1[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]1[H:27]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[C:11]([H:12])([H:13])[H:14])[H:15])([Br:16])[c:17]1[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]1[H:27],-7.954748721365756
491,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([H:12])[H:13])[Cl:14])([Br:15])[Br:16]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[Cl:14])([Br:15])[Br:16],-4.341078538227955
